US03994890
3-Phenylindazole (9.71 g), paraformaldehyde (2.25 g) and 5% aqueous sodium hydroxide solution (1 ml) were added to ethanol (40 ml) and the mixture was heated under reflux for 3 hours. After cooling the reaction mixture, the precipitated crystals were recovered by filtration to obtain 8.7 g of 1-hydroxymethyl-3-phenylindazole having a melting point between 103°-105° C after recrystallization from ligroine.

reactant | 3-Phenylindazole | 9.71 g | C1(=CC=CC=C1)C1=NNC2=CC=CC=C12 | C13H10N2
reactant | paraformaldehyde | 2.25 g | C=O | CH2O
reactant | sodium hydroxide | 1 ml | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 1-hydroxymethyl-3-phenylindazole | 8.7 g | OCN1N=C(C2=CC=CC=C12)C1=CC=CC=C1 | C14H12N2O
